US09034866B2
Synthesis of (±)-10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was prepared similarly to as described in General Procedure L. Methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with sodium methoxide and formamide to afford 127 mg (66% yield) of the crude title compound which was carried forward without further purification.

reactant | Methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(C3=CN=CN3C)O)C1)F | C20H18BrFN4O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
product | (±)-10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-imidazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 127 mg, 66% yield | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(C3=CN=CN3C)O)C1)F | C19H17BrFN5O2
